US06265351B1
2.32 g (16.81 mmoles) of potassium carbonate are added to a solution prepared with 5 g (15.28 mmoles) of 4-chloro-3-(4-chloro-2-fluoro-5-hydroxyphenyl)-5-difluoromethoxy-1-methylpyrazole, 3.92 g (16.81 mmoles) of ethyl 2-bromomethyl-3-furancarboxylate and 100 ml of acetone. The mixture is heated to reflux temperature under stirring for 2 hours. The raw product is then poured into 500 ml of a saturated solution of sodium chloride and extracted with ethyl acetate (3×150). The joined organic phases are washed with a saturated solution of sodium chloride, anhydrified with sodium sulfate and concentrated under vacuum. The raw product is purified by means of silica gel chromatography using a mixture of hexane/ethyl acetate: 8/2 as eluant. 7.18 g of ethyl 2-[2-chloro-5-(4-chloro-5-difluoromethoxy-1-methylpyrazol-3-yl)-4-fluorophenoxymethyl]-3-furancarboxylate (Compound Nr. 2) are obtained (yield 98%), as a white solid having a melting point of 59-61° C.

reactant | potassium carbonate | 16.81 mmoles, 2.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-3-(4-chloro-2-fluoro-5-hydroxyphenyl)-5-difluoromethoxy-1-methylpyrazole | 15.28 mmoles, 5 g | ClC=1C(=NN(C1OC(F)F)C)C1=C(C=C(C(=C1)O)Cl)F | C11H7Cl2F3N2O2
reactant | ethyl 2-bromomethyl-3-furancarboxylate | 16.81 mmoles, 3.92 g | BrCC=1OC=CC1C(=O)OCC | C8H9BrO3
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | ethyl 2-[2-chloro-5-(4-chloro-5-difluoromethoxy-1-methylpyrazol-3-yl)-4-fluorophenoxymethyl]-3-furancarboxylate | 7.18 g, yield 98% | ClC1=C(OCC=2OC=CC2C(=O)OCC)C=C(C(=C1)F)C1=NN(C(=C1Cl)OC(F)F)C | C19H15Cl2F3N2O5
